US09023843B2
6-[2-(3-Fluoro-phenyl)-ethyl]-4H-benzo[1,4]oxazin-3-one
To a solution of [4-(3-fluoro-phenylethynyl)-2-nitro-phenoxy]-acetic acid ethyl ester (1.72 g, 5.01 mmol, 1 equiv) in ethyl acetate (50 mL) was added palladium on carbon (500 mg, 10 wt. %, wet, Degussa type). The reaction vessel was placed under an atmosphere of hydrogen (balloon) and stirred at 23° C. for 15 h. At this time LCMS analysis indicated the reaction contains a mixture of the desired benzoxazinone product (major) and uncyclized aniline (minor). The mixture was filtered through a pad of Celite, washing with ethyl acetate (100 mL). The solution was concentrated, then re-dissolved in ethyl acetate (100 mL) and refluxed for 2 h. LCMS analysis indicates no improvement in cyclized:uncyclized ratio. Para-toluenesulfonic acid hydrate (111 mg) was added and resulting solution was refluxed for a further 1 h. The solution was cooled to 23° C. then washed successively with water, 1.0 N aqueous hydrochloric acid, saturated aqueous brine (100 mL each), dried (MgSO4), filtered and concentrated. The product was purified using an Isco CombiFlash automated chromatography system. The residue was loaded onto a 80 g silica gel column as a solution in dichloromethane (5 mL) then eluted with methanol in dichloromethane (0-5% methanol linear gradient over 18 column volumes at a flow rate of 60 mL/min) to give 1.15 g (4.24 mmol, 85%) of the title compound as a tan solid.

reactant | [4-(3-fluoro-phenylethynyl)-2-nitro-phenoxy]-acetic acid ethyl ester | 5.01 mmol, 1.72 g, 1 equiv | C(C)OC(COC1=C(C=C(C=C1)C#CC1=CC(=CC=C1)F)[N+](=O)[O-])=O | C18H14FNO5
reactant | benzoxazinone | O1NC(CC2=C1C=CC=C2)=O | C8H7NO2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
product | 6-[2-(3-Fluoro-phenyl)-ethyl]-4H-benzo[1,4]oxazin-3-one | 4.24 mmol, 1.15 g, 85% | FC=1C=C(C=CC1)CCC=1C=CC2=C(NC(CO2)=O)C1 | C16H14FNO2
